US03957763
Following the procedure of Example 17, 7-(3,4,7-trimethyl-2,6-octadienyloxy)-chromane and peracetic acid are reacted to form 7-(6,7-epoxy-3,4,7-trimethyl-2-octenyloxy)-chromane, nD20 = 1.5311.

reactant | 7-(3,4,7-trimethyl-2,6-octadienyloxy)-chromane | CC(=CCOC1=CC=C2CCCOC2=C1)C(CC=C(C)C)C | C20H28O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
product | 7-(6,7-epoxy-3,4,7-trimethyl-2-octenyloxy)-chromane | O1C(CC(C(=CCOC2=CC=C3CCCOC3=C2)C)C)C1(C)C | C20H28O3
